US08703768B2
Step 3: 4-Amino-1-pyridin-2-yl-1H-pyrazole-3-carboxylic acid dimethylamide
A solution of 4-nitro-1-pyridin-2-yl-1H-pyrazole-3-carboxylic acid dimethylamide (50 mg, 0.19 mmol) in THF (3 ml) was flushed with argon and treated with Pd/C 10% (11 mg, 0.01 mmol). The reaction vessel was evacuated and flushed with hydrogen three times and the reaction was stirred at ambient temperature overnight. The reaction mixture was filtrated and the solvent was evaporated to yield a solid material (44 mg, 99%) which was used without further purification.

reactant | 4-nitro-1-pyridin-2-yl-1H-pyrazole-3-carboxylic acid dimethylamide | 0.19 mmol, 50 mg | CN(C(=O)C1=NN(C=C1[N+](=O)[O-])C1=NC=CC=C1)C | C11H11N5O3
solvent | THF | 3 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.01 mmol, 11 mg | [Pd] | Pd
product | 4-Amino-1-pyridin-2-yl-1H-pyrazole-3-carboxylic acid dimethylamide | 44 mg, 99% | CN(C(=O)C1=NN(C=C1N)C1=NC=CC=C1)C | C11H13N5O
